US04713383
A mixture of 9-chloro-2-(2-furyl)-5-mercapto[1,2,4]triazolo[1,5-c]quinazoline (5.6 g) and aniline (40 ml) is stirred at 150° for 66 hours under nitrogen. The mixture is heated on a rotary evaporator under water pump vacuum to remove residual aniline and recrystallized from aqueous ethanol to afford pure 9-chloro-2-(2-furyl)-5-phenylimino-5,6-dihydro-[1,2,4]triazolo[1,5-c]quinazoline, mp 231°-233°.

reactant | 9-chloro-2-(2-furyl)-5-mercapto[1,2,4]triazolo[1,5-c]quinazoline | 5.6 g | ClC1=CC=2C=3N(C(=NC2C=C1)S)N=C(N3)C=3OC=CC3 | C13H7ClN4OS
solvent | aniline | 40 ml | NC1=CC=CC=C1 | C6H7N
product | 9-chloro-2-(2-furyl)-5-phenylimino-5,6-dihydro-[1,2,4]triazolo[1,5-c]quinazoline | ClC1=CC=2C=3N(C(NC2C=C1)=NC1=CC=CC=C1)N=C(N3)C=3OC=CC3 | C19H12ClN5O
